US07094780B1
(d) 2,3,4,5,6-Pentafluorobenzoic acid benzyl ester
A solution of 2,3,4,5,6-pentafluorobenzoic acid (15.25 g, 71.9 mmol), 4-dimethylaminopyridine (4.4 g, 36.0 mmol) and benzyl alcohol (7.4 mL, 71.5 mmol) in dichloromethane (150 mL) is cooled to 0° C. under an inert atmosphere. 1-[3-(Dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride (16.7 g, 87.1 mmol) is added and the mixture stirred at 0° C. for 2 hours. The mixture is warmed to ambient temperature, stirred for 24 hours, and then poured into brine. The mixture is extracted with chloroform and the organic phase washed with NaHCO3, dried over Na2SO4, filtered and concentrated under vacuum to yield the title compound as a white solid (16.7 g). This material is used without further purification. 1H NMR (CDCl3): δ 7.49–7.27 (m, 5H), 5.40 (s, 2H).

reactant | 2,3,4,5,6-pentafluorobenzoic acid | 71.9 mmol, 15.25 g | FC1=C(C(=O)O)C(=C(C(=C1F)F)F)F | C7HF5O2
reactant | benzyl alcohol | 71.5 mmol, 7.4 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | 1-[3-(Dimethylamino)propyl]-3-ethyl carbodiimide hydrochloride | 87.1 mmol, 16.7 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylaminopyridine | 36.0 mmol, 4.4 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | 2,3,4,5,6-Pentafluorobenzoic acid benzyl ester | 16.7 g | C(C1=CC=CC=C1)OC(C1=C(C(=C(C(=C1F)F)F)F)F)=O | C14H7F5O2
